US05208397
Mixtures of CFC-114a, chloropentafluoroethane (CFC-115) and hydrogen were fed to a reactor operated at several temperatures for 93 hours. For a 10.5 hour period at 650° C., at an average time in synthesis of 37 hours, with liquid feed rates of 6.1 mL/hr of CFC-114a and 0.7 mL/hr of CFC-115 and a hydrogen feed rate of 260 cc/min (1 atm. and room temperature basis); a molar ratio of (CFC-114a+CFC-115):H2 equal to 1:11 was provided, and the organic component of the reactor effluent contained an average (area percent) of 4.09% pentafluoroethane (HFC-125), 0.35% (CFC-115), 86.1% HFC-134a, 6.76% HCFC-124 and less than 0.1% CFC-114a. At 600° C. and the same feed rates, for a 10.5 hour period at an average time in synthesis of 61 hours, the organic composition of the reactor effluent was 2.50% HFC-125, 1.62% CFC-115, 54.7% HFC-134a, 40.0% HCFC-124 and 0.41% CFC-114a.

reactant | CFC-114a | C(C(F)(Cl)Cl)(F)(F)F | C2Cl2F4
reactant | chloropentafluoroethane | ClC(C(F)(F)F)(F)F | C2ClF5
reactant | hydrogen | [H][H] | H2
reactant | CFC-115 | C(C(F)(F)Cl)(F)(F)F | C2ClF5
product | CFC-114a CFC-115 | C(C(F)(Cl)Cl)(F)(F)F.C(C(F)(F)Cl)(F)(F)F | InChI=1S/C2Cl2F4.C2ClF5/c2*3-1(4,5)2(6,7)8
